US07498337B2
(2-{4-[(methylamino)methyl]-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-2-yl}phenyl)methanol fumarate
tert-Butyl({5-[2-(hydroxymethyl)phenyl]-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl}methyl)methylcarbamate (132 mg) was dissolved in trifluoroacetic acid (1 mL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was basified with a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: ethyl acetate-methanol=1:0→9:1) to give a free salt of the title compound as a colorless oil (yield 60.3 mg). A solution of the obtained free salt in ethyl acetate (5 mL) was added to a solution of fumaric acid (19.6 mg) in methanol (2 mL), and the mixture was concentrated under reduced pressure. The residue was recrystallized from ethanol to give the title compound as colorless crystals (yield 48 mg, 35%).

reactant | tert-Butyl({5-[2-(hydroxymethyl)phenyl]-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl}methyl)methylcarbamate | 132 mg | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)C1=C(C=CC=C1)CO)S(=O)(=O)C=1C=NC=CC1)=O | C23H27N3O5S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (2-{4-[(methylamino)methyl]-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-2-yl}phenyl)methanol fumarate | yield 60.3 mg | C(\C=C\C(=O)O)(=O)O.CNCC=1C=C(N(C1)S(=O)(=O)C=1C=NC=CC1)C1=C(C=CC=C1)CO | InChI=1S/C18H19N3O3S.C4H4O4/c1-19-10-14-9-18(17-7-3-2-5-15(17)13-22)21(12-14)25(23,24)16-6-4-8-20-11-16;5-3(6)1-2-4(7)8/h2-9,11-12,19,22H,10,13H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
